### PR TITLE
[Merged by Bors] - chore: remove whitespace

### PR DESCRIPTION
**Pull request by adomani**
Found by #26926.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/BigOperators/Group/Finset/Defs.lean [hunk 1]
```diff
@@ -184,7 +184,7 @@ syntax (name := bigsum) "∑ " bigOpBinders ("with " term)? ", " term:67 : term
 These support destructuring, for example `∏ ⟨x, y⟩ ∈ s ×ˢ t, f x y`.
 
 Notation: `"∏" bigOpBinders* ("with" term)? "," term` -/
-syntax (name := bigprod) "∏ " bigOpBinders ("with " term)? ", " term:67 : term
+syntax (name := bigprod) "∏ " bigOpBinders (" with " term)? ", " term:67 : term
```
Comment (adomani) [inline Mathlib/Algebra/BigOperators/Group/Finset/Defs.lean:187]: This change affects pretty-printing: it makes sure that `with` gets spaced away from the binders.

File: Mathlib/Algebra/Ring/Invertible.lean [hunk 2]
```diff
@@ -37,12 +37,12 @@ theorem pos_of_invertible_cast [NonAssocSemiring R] [Nontrivial R] (n : ℕ) [In
   Nat.zero_lt_of_ne_zero fun h => Invertible.ne_zero (n : R) (h ▸ Nat.cast_zero)
 
 theorem invOf_add_invOf [Semiring R] (a b : R) [Invertible a] [Invertible b] :
-    ⅟a + ⅟b = ⅟a * (a + b) * ⅟b := by
+    ⅟ a + ⅟ b = ⅟ a * (a + b) * ⅟ b := by
```
Comment (grunweg) [inline Mathlib/Algebra/Ring/Invertible.lean]: FWIW, I'm not as sure about the best style here. I also liked the old style. But in any case, making mathlib's formatting unified here is useful.

File: Mathlib/Probability/Kernel/CondDistrib.lean [hunk 3]
```diff
@@ -232,7 +232,8 @@ to the integral of `y ↦ f(X, y)` against the `condDistrib` kernel. -/
 theorem condExp_prod_ae_eq_integral_condDistrib' [NormedSpace ℝ F] [CompleteSpace F]
     (hX : Measurable X) (hY : AEMeasurable Y μ)
     (hf_int : Integrable f (μ.map fun a => (X a, Y a))) :
-    μ[fun a => f (X a, Y a)|mβ.comap X] =ᵐ[μ] fun a => ∫ y, f (X a,y) ∂condDistrib Y X μ (X a) := by
+    μ[fun a => f (X a, Y a)|mβ.comap X] =ᵐ[μ]
```
Comment (grunweg) [inline Mathlib/Probability/Kernel/CondDistrib.lean:235]: Was this one intentional? I don't disagree, but it sticks out :-)

**Review by grunweg — COMMENTED** [review]
Thanks!
maintainer delegate

File: Mathlib/Algebra/Ring/Invertible.lean (hunk 2 above)
Comment (adomani) [reply Mathlib/Algebra/Ring/Invertible.lean]: There is currently more than 50% more uses of `⅟ ` with a space, than without in `master` (~300 vs ~200).  The syntax includes it, but the good thing of the linter is that, should the preference change, it will be easy to catch all uses and flip the choice!

File: Mathlib/Probability/Kernel/CondDistrib.lean (hunk 3 above)
Comment (adomani) [reply Mathlib/Probability/Kernel/CondDistrib.lean:235]: This is a long line.

Comment (adomani) [reply Mathlib/Probability/Kernel/CondDistrib.lean:235]: It is a bit hard to notice, but `(X a,y)` is in the original and the linter suggested `(X a, y)`, which made the long line linter complain.

File: Mathlib/Algebra/BigOperators/Group/Finset/Defs.lean [hunk 4]
```diff
@@ -102,9 +102,9 @@ open Batteries.ExtendedBinder Lean Meta
 /-- A `bigOpBinder` is like an `extBinder` and has the form `x`, `x : ty`, or `x pred`
 where `pred` is a `binderPred` like `< 2`.
 Unlike `extBinder`, `x` is a term. -/
-syntax bigOpBinder := term:max ((" : " term) <|> binderPred)?
```
Comment (eric-wieser) [inline Mathlib/Algebra/BigOperators/Group/Finset/Defs.lean]: Isn't this whitespace considered good style?

File: Mathlib/Algebra/Group/Action/Basic.lean [hunk 5]
```diff
@@ -67,14 +67,14 @@ end Group
 section Monoid
 variable [Monoid α] [MulAction α β] (c : α) (x y : β) [Invertible c]
 
-@[simp] lemma invOf_smul_smul : ⅟c • c • x = x := inv_smul_smul (unitOfInvertible c) _
+@[simp] lemma invOf_smul_smul : ⅟ c • c • x = x := inv_smul_smul (unitOfInvertible c) _
```
Comment (eric-wieser) [inline Mathlib/Algebra/Group/Action/Basic.lean]: I claim that this is actually a mistake in the syntax, and no whitespace should be used.

Comment (adomani) [reply Mathlib/Algebra/Group/Action/Basic.lean]: I raised this on [#mathlib4 > Space after &#96;⅟ &#96; @ 💬](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Space.20after.20.60.E2.85.9F.20.60/near/528309060).

File: Mathlib/Algebra/BigOperators/Group/Finset/Defs.lean (hunk 4 above)
Comment (adomani) [reply Mathlib/Algebra/BigOperators/Group/Finset/Defs.lean]: It may be considered good style, but the pretty-printer has not been made aware of this!  :smile:

Comment (eric-wieser) [reply Mathlib/Algebra/BigOperators/Group/Finset/Defs.lean]: Perhaps for now the linter should skip `syntax` commands, since this needs core cooperation?

Comment (adomani) [reply Mathlib/Algebra/BigOperators/Group/Finset/Defs.lean]: Yes, I will ignore them and will revert this change as well.

**Comment by adomani** [comment]
I'll have to update this PR, now that the space after `⅟` is undesirable!

File: Mathlib/Algebra/Ring/Invertible.lean (hunk 2 above)
Comment (eric-wieser) [reply Mathlib/Algebra/Ring/Invertible.lean]: I guess we should now merge master to revert this

File: Mathlib/NumberTheory/RamificationInertia/Unramified.lean [hunk 6]
```diff
@@ -23,7 +23,7 @@ We connect `Ideal.ramificationIdx` to the commutative algebra notion predicate o
 variable {R S T : Type*} [CommRing R] [CommRing S] [CommRing T]
 variable [Algebra R S] [Algebra S T] [Algebra R T] [IsScalarTower R S T]
 
-local notation3 "e("P"|"R")" =>
+local notation3 "e(" P "|" R ")" =>
```
Comment (adomani) [inline Mathlib/NumberTheory/RamificationInertia/Unramified.lean:26]: This change does not affect pretty-printing, it is just "expected formatting".

File: Mathlib/Algebra/Ring/Invertible.lean (hunk 2 above)
Comment (adomani) [reply Mathlib/Algebra/Ring/Invertible.lean]: Actually, merging master did not work, I am not sure why.  However, I checked out the master files, making sure to preserve other changes.

File: Mathlib/Algebra/Group/Action/Basic.lean (hunk 5 above)
Comment (adomani) [reply Mathlib/Algebra/Group/Action/Basic.lean]: This has been fixed now.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
